US05504242
According to the same manner as described in Example 1 except for reacting N-ethoxycarbonylphthalimide with 1,4-butanediol under conditions shown in Table 19, ethyl N-{2-(4-hydroxybutoxycarbonyl)benzoyl)carbamate was obtained. Characteristics and identified structure of the resulting compound are shown in Table 6.

reactant | N-ethoxycarbonylphthalimide | C(C)OC(=O)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
product | ethyl N-{2-(4-hydroxybutoxycarbonyl)benzoyl)carbamate | OCCCCOC(=O)C1=C(C(=O)NC(OCC)=O)C=CC=C1 | C15H19NO6
